### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Copy): add degree of copy less than original

### PR DESCRIPTION
**Pull request by whocares-abt**
add two theorems relating degree of a graph and it's copy

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 1]
```diff
@@ -299,6 +299,35 @@ theorem isContained_iff_exists_iso_subgraph :
...
+  else
+    have h : ¬IsEmpty V := by assumption
+    rw [not_isEmpty_iff] at h
+    apply (@exists_maximal_degree_vertex V G) at h
+    cases h with | intro v h
+    have : G.degree v ≤ H.degree (copy v) := by
+      apply degree_le_of_copy
+    have : H.degree (copy v) ≤ H.maxDegree := by
+      apply (@degree_le_maxDegree W H)
+    omega
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
theorem max_degree_le_of_contained
    (hcont : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
  obtain ⟨copy⟩ := hcont
  by_cases! IsEmpty V
  · simp
  · obtain ⟨v, h⟩ := exists_maximal_degree_vertex (V := V) G
    have : H.degree (copy v) ≤ H.maxDegree := (@degree_le_maxDegree W H) _
    grind [degree_le_of_copy]
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 2]
```diff
@@ -299,6 +299,23 @@ theorem isContained_iff_exists_iso_subgraph :
 alias ⟨IsContained.exists_iso_subgraph, IsContained.of_exists_iso_subgraph⟩ :=
   isContained_iff_exists_iso_subgraph
 
+variable (v : V) [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj] in
+theorem degree_le_of_copy (fcopy : Copy G H) :
+    G.degree v ≤ H.degree (fcopy v) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
theorem Copy.degree_le (fcopy : Copy G H) (v : V) [Fintype <| G.neighborSet v]
    [Fintype <| H.neighborSet v] : G.degree v ≤ H.degree (fcopy v) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 3]
```diff
@@ -299,6 +299,23 @@ theorem isContained_iff_exists_iso_subgraph :
...
+  repeat rw [← card_neighborSet_eq_degree]
+  have h1 := Copy.mapNeighborSet fcopy v
+  exact (Fintype.card_le_of_injective h1.toFun h1.inj')
+
+variable (v : V) [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj] in
+theorem max_degree_le_of_contained
+    (hcont : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
theorem IsContained.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj]
    (hcont : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 4]
```diff
@@ -299,6 +299,23 @@ theorem isContained_iff_exists_iso_subgraph :
 alias ⟨IsContained.exists_iso_subgraph, IsContained.of_exists_iso_subgraph⟩ :=
   isContained_iff_exists_iso_subgraph
 
+variable (v : V) [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj] in
+theorem degree_le_of_copy (fcopy : Copy G H) :
+    G.degree v ≤ H.degree (fcopy v) := by
+  repeat rw [← card_neighborSet_eq_degree]
+  have h1 := Copy.mapNeighborSet fcopy v
+  exact (Fintype.card_le_of_injective h1.toFun h1.inj')
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
  exact Fintype.card_le_of_injective h1.toFun h1.inj'
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 5]
```diff
@@ -299,6 +299,23 @@ theorem isContained_iff_exists_iso_subgraph :
...
+
+variable (v : V) [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj] in
+theorem max_degree_le_of_contained
+    (hcont : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
+  obtain ⟨copy⟩ := hcont
+  by_cases! IsEmpty V
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
  cases isEmpty_or_nonempty V
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 6]
```diff
@@ -299,6 +299,23 @@ theorem isContained_iff_exists_iso_subgraph :
...
+  · simp
+  · obtain ⟨v, h⟩ := exists_maximal_degree_vertex (V := V) G
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
  · have ⟨v, h⟩ := exists_maximal_degree_vertex G
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 7]
```diff
@@ -299,6 +299,23 @@ theorem isContained_iff_exists_iso_subgraph :
 alias ⟨IsContained.exists_iso_subgraph, IsContained.of_exists_iso_subgraph⟩ :=
   isContained_iff_exists_iso_subgraph
 
+variable (v : V) [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj] in
+theorem degree_le_of_copy (fcopy : Copy G H) :
```
Comment (vihdzp) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: `variable in` is generally used to change the implicit/explicitness of variables that have already been declared, rather than declaring new ones. Could you put them in your declaration, line wrapping as necessary?
```suggestion
theorem degree_le_of_copy (v : V) [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj] (fcopy : Copy G H) :
```
On a related note, `fcopy` is somewhat of an unorthodox variable name - I can see `f : Copy A B` elsewhere in the file, why not reuse that name?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 2 above)
Comment (vihdzp) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Just making sure - this isn't necessarily an equality, right?

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Right, see for example [`SimpleGraph.Copy.ofLE`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Copy.html#SimpleGraph.Copy.ofLE) which means every graph contains a copy of a graph with the same vertices but no edges, so the LHS would be 0 and the RHS can be anything.

OTOH for `Embedding G H` it would be an equality I believe (and we're missing that theorem as well).

Comment (vihdzp) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: This feels backwards... a copy doesn't preserve the degree structure, but an embedding does?

Why not just use the nomenclature from algebra? A morphism preserves structure, an embedding is an injective morphism, and an isomorphism is a two-way bijective morphism?

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: I also dislike the naming, but your suggestion only includes 3 levels whereas graphs (and in general, relations) have 4. In order of strength: `Hom`, `Copy`, `Embedding`, `Iso`.
The naming of `Hom` and `Iso` is fine, and `Copy` and `Embedding` are strange, but I don't know of any better names for them.
btw if you look at topology, their "embedding" (`Topology.IsEmbedding`) is not just an injective continuous function, and is pretty similar to `SimpleGraph.Embedding`/`RelEmbedding` in spirit. Topology doesn't have a name for injective continuous functions, for some reason.

Also I was wrong - an embedding will also give `≤` for degrees, e.g. [`Embedding.induce`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Maps.html#SimpleGraph.Embedding.induce) with a singleton for `s` should demonstrate equality doesn't always hold.
Only an `Iso` will preserve degrees. An `Embedding` will preserve degrees as long as all neighbors are in its range, and a `Copy` doesn't even have that.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 8]
```diff
@@ -299,6 +299,23 @@ theorem isContained_iff_exists_iso_subgraph :
...
+theorem IsContained.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj]
+[DecidableRel H.Adj]
+    (hcont : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
+  obtain ⟨copy⟩ := hcont
+  cases isEmpty_or_nonempty V
+  · simp
+  · have ⟨v, h⟩ := exists_maximal_degree_vertex G
+    have : H.degree (copy v) ≤ H.maxDegree := (@degree_le_maxDegree W H) _
+    have : G.degree v ≤ H.degree (copy v) := by simp_all only [Copy.degree_le]
+    grind
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
theorem Copy.degree_le (f : Copy G H) (v : V) [Fintype <| G.neighborSet v]
    [Fintype <| H.neighborSet (f v)] : G.degree v ≤ H.degree (f v) := by
  simpa using Fintype.card_le_of_injective _ (f.mapNeighborSet v).injective

theorem IsContained.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj]
    [DecidableRel H.Adj] (hGH : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
  obtain ⟨f⟩ := hGH
  cases isEmpty_or_nonempty V
  · simp
  obtain ⟨v, h⟩ := exists_maximal_degree_vertex G
  grind [degree_le_maxDegree H (f v), f.degree_le v]
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 9]
```diff
@@ -299,6 +299,18 @@ theorem isContained_iff_exists_iso_subgraph :
 alias ⟨IsContained.exists_iso_subgraph, IsContained.of_exists_iso_subgraph⟩ :=
   isContained_iff_exists_iso_subgraph
 
+theorem Copy.degree_le (f : Copy G H) (v : V) [Fintype <| G.neighborSet v]
+    [Fintype <| H.neighborSet (f v)] : G.degree v ≤ H.degree (f v) := by
+  simpa using Fintype.card_le_of_injective _ (f.mapNeighborSet v).injective
+
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:305]: Let's also add `Copy.max_degree_le` (for ease of dot notation), then `IsContained.max_degree_le` will be a trivial consequence of it

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 10]
```diff
@@ -299,6 +299,22 @@ theorem isContained_iff_exists_iso_subgraph :
...
+theorem Copy.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj]
+    [DecidableRel H.Adj] (f : Copy G H) : G.maxDegree ≤ H.maxDegree := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
theorem Copy.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj]
    (f : Copy G H) : G.maxDegree ≤ H.maxDegree := by
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 11]
```diff
@@ -299,6 +299,22 @@ theorem isContained_iff_exists_iso_subgraph :
...
+  cases isEmpty_or_nonempty V
+  · simp
+  obtain ⟨v, h⟩ := exists_maximal_degree_vertex G
+  grind [degree_le_maxDegree H (f v), f.degree_le v]
+
+theorem IsContained.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj]
+    [DecidableRel H.Adj] (hGH : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
+  obtain ⟨f⟩ := hGH
+  exact Copy.max_degree_le f
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
theorem IsContained.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj]
    (h : G ⊑ H) : G.maxDegree ≤ H.maxDegree :=
  h.some.max_degree_le
```

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: I disagree here, I think the earlier version is cleaner and more idiomatic. But it's not a huge deal either way

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Then perhaps
```suggestion
theorem IsContained.max_degree_le [Fintype V] [Fintype W] [DecidableRel G.Adj] [DecidableRel H.Adj]
    (h : G ⊑ H) : G.maxDegree ≤ H.maxDegree := by
  have ⟨f⟩ := h
  exact f.max_degree_le
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
